US06335337B1
a) 4-(2-Aminoethylamino)benzonitrile (compound 1a)
A suspension of 4-fluorobenzonitrile (167 g, 1.38 mol), ethylenediamine (330 g, 5.5 mol) and potassium carbonate (300 g, 2.17 mol) in 2 1 of toluene is refluxed for 6 hours. After cooling to room temperature, the mixture is filtered and rinsed with toluene, and the filtrate is evaporated to give a yellow oil which is crystallized from toluene. The product is filtered off, rinsed with toluene and dried under vacuum at 50° C. to give 200 g of a slightly yellow solid.

reactant | 4-fluorobenzonitrile | 1.38 mol, 167 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ethylenediamine | 5.5 mol, 330 g | C(CN)N | C2H8N2
reactant | potassium carbonate | 2.17 mol, 300 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Aminoethylamino)benzonitrile | NCCNC1=CC=C(C#N)C=C1 | C9H11N3
